US07375134B2
A mixture of (S)-1-(tert-butyldimethylsilanyloxymethyl)-butylamine (27 g, 126 mmol) and trifluoroacetaldehyde methyl hemiacetal (17.2 g, 132 mmol) in benzene (250 mL) was heated at reflux, using a Dean-Stark trap to remove water. After 2 hours, no more water was collected. The reaction mixture was cooled and concentrated to give (S)-[1-(tert-butyldimethylsilanyloxymethyl)-butyl]-(2,2,2-trifluoroethylidene)-amine which was used in the next step without further purification or extended drying due to its volatility.

reactant | (S)-1-(tert-butyldimethylsilanyloxymethyl)-butylamine | 126 mmol, 27 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC)N | C11H27NOSi
reactant | trifluoroacetaldehyde methyl hemiacetal | 132 mmol, 17.2 g | COC(C(F)(F)F)O | C3H5F3O2
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | (S)-[1-(tert-butyldimethylsilanyloxymethyl)-butyl]-(2,2,2-trifluoroethylidene)-amine | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC)N=CC(F)(F)F | C13H26F3NOSi
